### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/RootSystem): Generalize RootPairing.pairing_zero_iff

### PR DESCRIPTION
**Pull request by jano-wol**
Generalize RootPairing.pairing_zero_iff
---
This PR proves that if RootPairing.pairing i j = 0, then RootPairing.pairing j i = 0 for NoZeroSMulDivisors modules. This strictly generalizes the theorem RootPairing.InvariantForm.pairing_zero_iff.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/RootSystem/Defs.lean [hunk 1]
```diff
@@ -749,4 +749,33 @@ lemma isFixedPt_reflection_of_isOrthogonal {s : Set ι} (hj : ∀ i ∈ s, P.IsO
...
+  have : IsDomain R := IsDomain.mk
+  exact pairing_zero_iff
+
+lemma coxeterWeight_zero_iff_isOrthogonal [NeZero (2 : R)] [NoZeroDivisors R] :
+    P.coxeterWeight i j = 0 ↔ P.IsOrthogonal i j := by
+  simp [coxeterWeight, IsOrthogonal, P.pairing_zero_iff' (i := i) (j := j)]
+
+lemma isOrthogonal_iff_pairing_eq_zero [NeZero (2 : R)] [NoZeroDivisors R] :
+    P.IsOrthogonal i j ↔ P.pairing i j = 0 := by
+  simp [← coxeterWeight_zero_iff_isOrthogonal, coxeterWeight, P.pairing_zero_iff' (i := j) (j := i)]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Defs.lean:779]: We can actually weaken the hypotheses here:
```suggestion
lemma isOrthogonal_iff_pairing_eq_zero [NeZero (2 : R)] [NoZeroSMulDivisors R N] :
    P.IsOrthogonal i j ↔ P.pairing i j = 0 :=
  ⟨fun h ↦ h.1, fun h ↦ ⟨h, pairing_zero_iff.mp h⟩⟩
```

File: Mathlib/LinearAlgebra/RootSystem/Defs.lean [hunk 2]
```diff
@@ -749,4 +749,33 @@ lemma isFixedPt_reflection_of_isOrthogonal {s : Set ι} (hj : ∀ i ∈ s, P.IsO
...
+    exact False.elim (P.ne_zero' b h₂)
+  exact ⟨aux i j, aux j i⟩
+
+lemma pairing_zero_iff' [NeZero (2 : R)] [NoZeroDivisors R] :
+    (P.pairing i j = 0) ↔ (P.pairing j i = 0) := by
+  have := P.reflexive_right
+  have : Nontrivial R := ⟨2, 0, two_ne_zero⟩
+  have : IsDomain R := IsDomain.mk
+  exact pairing_zero_iff
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Defs.lean:772]: We should consistently use `IsDomain R` and not use `NoZeroDivisors R`:
```suggestion
lemma pairing_zero_iff' [NeZero (2 : R)] [IsDomain R] :
    P.pairing i j = 0 ↔ P.pairing j i = 0 := by
  have := P.reflexive_right
  exact pairing_zero_iff
```
(for a non-trivial commutative ring, these two concepts are the same and `IsDomain R` will be more convenient until some independent wrinkles elsewhere in tbe library are ironed out)

File: Mathlib/LinearAlgebra/RootSystem/Defs.lean [hunk 3]
```diff
@@ -749,4 +749,33 @@ lemma isFixedPt_reflection_of_isOrthogonal {s : Set ι} (hj : ∀ i ∈ s, P.IsO
...
+lemma coxeterWeight_zero_iff_isOrthogonal [NeZero (2 : R)] [NoZeroDivisors R] :
+    P.coxeterWeight i j = 0 ↔ P.IsOrthogonal i j := by
+  simp [coxeterWeight, IsOrthogonal, P.pairing_zero_iff' (i := i) (j := j)]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Defs.lean:775]:
```suggestion
lemma coxeterWeight_zero_iff_isOrthogonal [NeZero (2 : R)] [IsDomain R] :
    P.coxeterWeight i j = 0 ↔ P.IsOrthogonal i j := by
  have := P.reflexive_right
  simp [coxeterWeight, IsOrthogonal, P.pairing_zero_iff (i := i) (j := j)]
```

**Review by ocfnash — COMMENTED** [review]
Thanks, this is a great improvement.

The switch to `IsDomain R` from `NoZeroDivisors R` (which I suggest below) might require some minor downstream fixes but this is very nearly ready.

**Comment by jano-wol** [comment]
Thanks for the review, I took over the suggestions, and changed `NoZeroDivisors R` to `IsDomain R` in the `RootSystem` folder.

File: Mathlib/LinearAlgebra/RootSystem/Defs.lean [hunk 4]
```diff
@@ -749,4 +749,32 @@ lemma isFixedPt_reflection_of_isOrthogonal {s : Set ι} (hj : ∀ i ∈ s, P.IsO
...
+    intro h
+    have h₁ : P.toPerfectPairing (P.root a) (P.coroot b) = 0 := h
+    have root_swap := P.reflection_perm_root b a
+    rw [h₁, zero_smul, sub_zero, EmbeddingLike.apply_eq_iff_eq] at root_swap
+    have coroot_swap := P.reflection_perm_coroot b a
+    rw [← root_swap, root_coroot_eq_pairing, sub_eq_self, smul_eq_zero] at coroot_swap
+    rcases coroot_swap with h₂ | h₂
+    · exact h₂
+    exact False.elim (P.ne_zero' b h₂)
+  exact ⟨aux i j, aux j i⟩
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Defs.lean:764]: I suggest we break this down into pieces as follows:
```suggestion
lemma reflection_perm_eq_of_pairing_eq_zero (h : P.pairing j i = 0) :
    P.reflection_perm i j = j :=
  P.root.injective <| by simp [reflection_apply, h]

lemma reflection_perm_eq_of_pairing_eq_zero' (h : P.pairing i j = 0) :
    P.reflection_perm i j = j :=
  P.flip.reflection_perm_eq_of_pairing_eq_zero h

lemma smul_root_eq_zero_of_pairing_eq_zero (h : P.pairing i j = 0) :
    P.pairing j i • P.root i = 0 := by
  simpa [P.reflection_perm_eq_of_pairing_eq_zero' h] using P.reflection_perm_root i j

lemma smul_coroot_eq_zero_of_pairing_eq_zero (h : P.pairing i j = 0) :
    P.pairing j i • P.coroot j = 0 :=
  P.flip.smul_root_eq_zero_of_pairing_eq_zero h

lemma pairing_zero_iff [NeZero (2 : R)] [NoZeroSMulDivisors R M] :
    P.pairing i j = 0 ↔ P.pairing j i = 0 := by
  suffices ∀ {i j : ι}, P.pairing i j = 0 → P.pairing j i = 0 from ⟨this, this⟩
  intro i j h
  simpa [P.ne_zero i] using P.smul_root_eq_zero_of_pairing_eq_zero h
```
Some of these lemmas probably seem a bit ridiculous but I have gradually come to believe that a rich API is always worth the effort. If nothing else, they make it much easier to see the argument at a glance.

Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/Defs.lean:764]: Note that if you do the above you'll have to change a few `have := P.reflexive_right` into `have := P.reflexive_left` and some `[NoZeroSMulDivisors R N]` into `[NoZeroSMulDivisors R M]`. Obviously either setup is fine but in situations like this where we are forced to have a bias between roots and coroots, I think we should favour the roots.

**Review by ocfnash — APPROVED** [review]
Thanks, please apply my final suggestion and then feel free to merge.

I really appreciate you went the extra mile, following previous suggestions, including tidying up the `NoZeroDivisors` vs. `IsDomain` issue through this part of the library.

bors d+

File: Mathlib/LinearAlgebra/RootSystem/Defs.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/Defs.lean:764]: It might be worth also including:
```lean
lemma isFixedPt_reflection_perm_iff [NeZero (2 : R)] [NoZeroSMulDivisors R M] :
    IsFixedPt (P.reflection_perm i) j ↔ P.pairing i j = 0 := by
  refine ⟨fun h ↦ ?_, P.reflection_perm_eq_of_pairing_eq_zero'⟩
  simpa [P.ne_zero i, pairing_zero_iff, IsFixedPt, reflection_perm_eq_iff_smul_root] using h
```
